US07615643B2
(+/−)-3-[(1-{3-[(1-methyl-4-piperidinyl)oxy]phenyl}ethyl)oxy]-5-[5-(1-methyl-1H-pyrazol-4-yl)-1H -benzimidazol-1-yl]-2-thiophenecarboxamide
(+/−)-5-[5-(1-Methyl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]-3-({1-[3-(4-piperidinyloxy)phenyl]ethyl}oxy)-2-thiophenecarboxamide (0.108 g, 0.199 mmol) was dissolved in 9 mL of DCM and 4.5 mL of MeOH with stirring. Acetic acid solution (0.24 mL, 1.0M in DCM, 0.24 mmol) and formaldehyde solution (0.030 mL, 37% in water, 0.40 mmol) were added. Sodium triacetoxyborohydride (0.0633 g, 0.299 mmol) was added in a single portion. The reaction was stirred for 1.5 h and poured into 1N aqueous NaOH solution. The mixture was extracted three times with 4:1 DCM/i-PrOH. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The solid was triturated with 1:1 ether/hexanes, filtered, and washed with hexanes. The solid was dried and collected to afford 0.099 g (90%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 8.51 (s, 1H), 8.17 (s, 1H), 7.93 (m, 1H), 7.90 (s, 1H), 7.75 (br s, 1H), 7.55 (dd, J=8.6, 1.5 Hz, 1H), 7.49 (d, J=8.6 Hz, 1H), 7.42 (s, 1H), 7.26 (dd, J=7.9, 7.9 Hz, 1H), 7.12-7.07 (m, 2H), 7.05 (d, J=7.9 Hz, 1H), 6.85 (dd, J=7.9, 2.2 Hz, 1H), 5.69 (q, J=6.4 Hz, 1H), 4.30 (m, 1H), 3.84 (s, 3H), 2.57-2.43 (m, 2H), 2.09 (s, 3H), 2.10-2.00 (m, 2H), 1.88-1.78 (m, 2H), 1.67 (d, J=8.4 Hz, 3H), 1.60-1.47 (m, 2H). MS (ESI): 557 [M+H]+.

reactant | (+/−)-5-[5-(1-Methyl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]-3-({1-[3-(4-piperidinyloxy)phenyl]ethyl}oxy)-2-thiophenecarboxamide | 0.199 mmol, 0.108 g | CN1N=CC(=C1)C1=CC2=C(N(C=N2)C2=CC(=C(S2)C(=O)N)OC(C)C2=CC(=CC=C2)OC2CCNCC2)C=C1 | C29H30N6O3S
reactant | Acetic acid | 0.24 mmol, 1.0M, 0.24 mL | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 0.40 mmol, 0.030 mL | C=O | CH2O
reactant | Sodium triacetoxyborohydride | 0.299 mmol, 0.0633 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 4.5 mL | CO | CH4O
product | (+/−)-3-[(1-{3-[(1-methyl-4-piperidinyl)oxy]phenyl}ethyl)oxy]-5-[5-(1-methyl-1H-pyrazol-4-yl)-1H -benzimidazol-1-yl]-2-thiophenecarboxamide | 0.099 g, 90% | CN1CCC(CC1)OC=1C=C(C=CC1)C(C)OC1=C(SC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)C)C(=O)N | C30H32N6O3S
